US05457107
Step E: 4-Benzyl-2-(S)-(3,5-bis(trifluoromethyl)benz-yloxy)-3-(S)-phenylmorpholine
A solution of 0.500 g (1.87 mmole) of N-benzyl-3-(S)-phenylmorpholin-2-one in 10 mL of dry THF was cooled to -75° C. under nitrogen and was treated dropwise with 2.06 mL (2.06 mmole) of a 1M solution of lithium tri(sec-butyl)-borohydride (L-Selectride®) in THF. After stirring the solution at -75° C. for 30 min, a solution of 3,5-bis(trifluoromethyl)benzyl alcohol, trifluoromethanesulfonate ester in toluene was added by cannula so that the internal temperature was maintained below -60° C. The resulting solution was stirred at -75° C. for 1 hr and then between -38° C. and -50° C. for 2 hr. The solution was then poured into a mixture of 25 mL of ethyl acetate and 20 mL of saturated aqueous sodium bicarbonate, and the layers were separated. The aqueous phase was extracted with 2×30 mL of ethyl acetate, the combined organic layers were dried over sodium sulfate, the mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on 130 g of silica eluting with 2L of 100:5 hexanes:ethyl acetate to give 0.68 g (73%) of an oil, which by 1H NMR is a 20:1 mixture of cis:trans morpholines.

reactant | N-benzyl-3-(S)-phenylmorpholin-2-one | 1.87 mmole, 0.500 g | C(C1=CC=CC=C1)N1[C@H](C(OCC1)=O)C1=CC=CC=C1 | C17H17NO2
reactant | lithium tri(sec-butyl)-borohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | 3,5-bis(trifluoromethyl)benzyl alcohol | FC(C=1C=C(CO)C=C(C1)C(F)(F)F)(F)F | C9H6F6O
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 4-Benzyl-2-(S)-(3,5-bis(trifluoromethyl)benz-yloxy)-3-(S)-phenylmorpholine | 0.68 g, 73% | C(C1=CC=CC=C1)N1[C@H]([C@H](OCC1)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C26H23F6NO2
